US08247421B2
Step 6: 2-((R)-1-(4-aminocyclohexyl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
2-((R)-1-(4-oxocyclohexyl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (105 mg, 0.1802 mmol) was disolved in methanol (5 mL) and dichloromethane (5 mL). Ammonium acetate (138.9 mg, 118.7 μL, 1.802 mmol), followed by sodium triacetoxyborohydride (38.19 mg, 0.1802 mmol) were added and the reaction mixture was stirred for 4 hours at room temperature. The mixture was partitioned between dichloromethane and a saturated solution of sodium bicarbonate. The aqueous phase was extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered and concentrated to dryness to afford the desired product as a yellow solid (95 mg, 90% yield).

reactant | 2-((R)-1-(4-oxocyclohexyl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 0.1802 mmol, 105 mg | O=C1CCC(CC1)[C@@H](C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C28H25F3N6O3S
reactant | Ammonium acetate | 1.802 mmol, 118.7 μL, 138.9 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium triacetoxyborohydride | 0.1802 mmol, 38.19 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-((R)-1-(4-aminocyclohexyl)ethylamino)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 95 mg, 90% yield | NC1CCC(CC1)[C@@H](C)NC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C28H28F3N7O2S
